US04619787
A solution of 4.26 g (12.0 mmol) of (3S,4R)-3-chloro-1-(2,4-dimethoxybenzyl)-4-[(R)-2,2-dimethyl-1,3-dioxolan-4-yl]-2-azetidinone and 3 g (53 mmol) of potassium hydroxide in 50 ml of methanol is hydrogenated in the presence of 400 mg of 5 percent palladium/carbon for 1 hour at normal pressure. The catalyst is filtered off, the filtrate is diluted with ethyl acetate and washed with 1M phosphate buffer (pH 7) and saturated sodium chloride solution. The organic phase is dried over sodium sulphate and evaporated, whereupon the residue is chromatographed on silica gel with ethyl acetate/hexane as the eluent. After two-fold crystallization from methylene chloride/hexane there is obtained (S)-1-(2,4-dimethoxybenzyl)-4-[(R)-2,2-dimethyl-1,3-dioxolan-4-yl]-2-azetidinone as white crystals of melting point 85°-86°; [α]D20 =+50.3° (c=1, chloroform).

reactant | (3S,4R)-3-chloro-1-(2,4-dimethoxybenzyl)-4-[(R)-2,2-dimethyl-1,3-dioxolan-4-yl]-2-azetidinone | 12.0 mmol, 4.26 g | Cl[C@@H]1C(N([C@@H]1[C@H]1OC(OC1)(C)C)CC1=C(C=C(C=C1)OC)OC)=O | C17H22ClNO5
reactant | potassium hydroxide | 53 mmol, 3 g | [OH-].[K+]
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium/carbon | 400 mg | [Pd] | Pd
product | (S)-1-(2,4-dimethoxybenzyl)-4-[(R)-2,2-dimethyl-1,3-dioxolan-4-yl]-2-azetidinone | COC1=C(CN2C(C[C@H]2[C@H]2OC(OC2)(C)C)=O)C=CC(=C1)OC | C17H23NO5
